US05068251
N'-hydroxy-N-[l-(6-methoxynaphthalen-2yl)ethyl]urea
To a stirred solution of naproxen (2.0 g, 8.7 mmol) in benzene (45 mL) was added triethylamine (0.88 g, 8.7 mmol) followed by diphenylphosphoryl azide (2.39 g, 8.7 mmol) and the mixture was heated at 90° C. for one hour. Then, O- trimethylsilylhydroxylamine (1.83 g, 17.4 mmol) was added and the mixture was heated at 90° C. for 4 hours. The reaction was then poured into aqueous saturated NH4Cl (30 mL) and extracted with ethylacetate (3×50 mL). The combined organic extract was dried over MgSO4 and concentrated. The resulting residue was purified by crystallization from ethylacetate-hexane to provide the desired product (911 mg).

reactant | naproxen | 8.7 mmol, 2.0 g | C[C@@H](C=1C=CC=2C=C(C=CC2C1)OC)C(=O)O | C14H14O3
reactant | triethylamine | 8.7 mmol, 0.88 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 8.7 mmol, 2.39 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | trimethylsilylhydroxylamine | 17.4 mmol, 1.83 g | C[Si](C)(C)NO | C3H11NOSi
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | benzene | 45 mL | C1=CC=CC=C1 | C6H6
product | N'-hydroxy-N-[l-(6-methoxynaphthalen-2yl)ethyl]urea | 911 mg | ONC(NC(C)C1=CC2=CC=C(C=C2C=C1)OC)=O | C14H16N2O3
